US07576215B2
{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENOXY}ACETIC ACID
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and (4-formyl-phenoxy)-acetic acid according to the procedure of Example 66. MS (ESI) m/z 557.

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | (4-formyl-phenoxy)-acetic acid | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
product | {4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENOXY}ACETIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(OCC(=O)O)C=C1)C(F)(F)F | C32H23F3N2O4
